US08609675B2
NBS (246 mg, 1.38 mmoL) was added to a solution of tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yloxy)piperidine-1-carboxylate (Int-11b, 1022 mg, 1.38 mmoL) in CH3CN (15 mL). After stirring at room temperature for 30 min, the mixture was concentrated in vacuo. Purification by column chromatography afforded tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yloxy)piperidine-1-carboxylate (Int-11c): LCMS tR=3.59 Min (5 min run, UV254nm). Mass calculated for, M+824.3, observed m/z 825.1 (M+H).

reactant | NBS | 246 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yloxy)piperidine-1-carboxylate | 1022 mg | C[Si](CCOCN(C1=CC(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)(C)C | C39H58N6O5Si2
solvent | CH3CN | 15 mL | CC#N | C2H3N
product | tert-butyl 4-(7-(bis((2-(trimethylsilyl)ethoxy)methyl)amino)-6-bromo-3-(6-phenylpyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yloxy)piperidine-1-carboxylate | C[Si](CCOCN(C1=C(C(=NC=2N1N=CC2C=2C=NC(=CC2)C2=CC=CC=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)Br)COCC[Si](C)(C)C)(C)C | C39H57BrN6O5Si2
